US07939661B2
Step 2: Piperidin-4-yl-quinolin-4-yl-amine dihydrochloride
A solution of 4-(quinolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.77 g, 5.41 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 228.6 [M+H]+.

reactant | 4-(quinolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 5.41 mmol, 1.77 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=NC2=CC=CC=C12 | C19H25N3O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Piperidin-4-yl-quinolin-4-yl-amine dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=CC=NC2=CC=CC=C12 | InChI=1S/C14H17N3.2ClH/c1-2-4-13-12(3-1)14(7-10-16-13)17-11-5-8-15-9-6-11;;/h1-4,7,10-11,15H,5-6,8-9H2,(H,16,17);2*1H
